US07939533B2
To a suspension of 1.81 g (25.8 mmol) sodium methanethiolate in 25 ml methanol was added a solution of 1.35 g (4.31 mmol) 2-methanesulfonyloxymethyl-pyrrolidine-1-carboxylic acid benzyl ester in 25 ml methanol. Conversion was monitored by thin layer chromatography. After complete consumption of the starting material the reaction mixture was diluted with ethyl acetate and washed with two portions of water. The organic layer was dried over sodium sulfate. Flash chromatography gave 0.89 g (3.4 mmol, 78%) (S)-2-methylsulfanylmethyl-pyrrolidine-1-carboxylic acid benzyl ester as a light yellow oil.

reactant | sodium methanethiolate | 25.8 mmol, 1.81 g | C[S-].[Na+]
reactant | 2-methanesulfonyloxymethyl-pyrrolidine-1-carboxylic acid benzyl ester | 4.31 mmol, 1.35 g | C(C1=CC=CC=C1)OC(=O)N1C(CCC1)COS(=O)(=O)C | C14H19NO5S
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 25 ml | CO | CH4O
product | (S)-2-methylsulfanylmethyl-pyrrolidine-1-carboxylic acid benzyl ester | 3.4 mmol, 0.89 g, 78% | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)CSC | C14H19NO2S
